US07612114B2
6-{2-{[4-(2-Dimethylaminoethoxy)-3-fluorobenzyl]methylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[(3-fluoro-4-hydroxybenzoyl)methylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (20 mg) and 2-chloro-N,N-dimethylacetamide (9.6 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (2.1 mg) was obtained.

reactant | pivalic acid 6-{2-[(3-fluoro-4-hydroxybenzoyl)methylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 20 mg | FC=1C=C(C(=O)CNC2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=CC1O | C30H32FNO5
reactant | 2-chloro-N,N-dimethylacetamide | 9.6 mg | ClCC(=O)N(C)C | C4H8ClNO
product | 6-{2-{[4-(2-Dimethylaminoethoxy)-3-fluorobenzyl]methylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 2.1 mg | CN(CCOC1=C(C=C(CCNC2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)O)C=C1)F)C | C29H35FN2O3
